US04427589
9-Chloro-5-hydroxy-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one
A mixture of 2.1 g (5.3 mmol) of 5-(acetyloxy)-9-chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one and 50 mL of 3 N sodium hydroxide was heated on a steam bath for 5 min. The reaction mixture was diluted with 200 mL of ice water and 50 mL of ether. The sodium hydroxide was neutralized with acetic acid and the resulting mixture stirred at room temperature for 30 min. The resulting precipitate was collected by filtration to give an off-white solid. Recrystallization from tetrahydrofuran gave the product as colorless crystals, mp 253°-255° (dec.).

reactant | 5-(acetyloxy)-9-chloro-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | 5.3 mmol, 2.1 g | C(C)(=O)OC1N=C(C2=C(C3=C1N=C(NC3=O)C)C=CC(=C2)Cl)C2=CC=CC=C2 | C21H16ClN3O3
reactant | sodium hydroxide | 3 N, 50 mL | [OH-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ether | 50 mL | CCOCC | C4H10O
product | 9-Chloro-5-hydroxy-3-methyl-7-phenyl-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | ClC1=CC2=C(C3=C(C(N=C2C2=CC=CC=C2)O)N=C(NC3=O)C)C=C1 | C19H14ClN3O2
